Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ with a h/o hypertension, HLD who presents for chest pain and 
tachycardia. Her husband was just discharged from ___ ___ 
morning, and she was at home making him dinner when she had a 
sudden onset at 6pm of chest pressure radiating to both 
shoulders, along with palpitations and lightheadedness. She had 
no nausea, vomiting, fevers, chills, or shortness of breath. She 
denies dysuria, hematuria, discharge. She denies edema, 
orthopnea, or PND. She denies fall or syncope.  

EMS found her heart rate to be in 230s to 240s. They gave her 6 
mg of adenosine with no response, then 15 mg of diltiazem with 
improvement to 140s. She subsequently felt better and was 
brought to ___ ED.  
 In the ED initial vitals were: HR 147, 149/91, RR 18, 97% RA, 
temp 98.2  
 Labs/studies notable for: Trop negative, K 3.2, Bicarb 19, BUN 
32, Glucose 203  
 Patient was given:  
 IV Diltiazem 20 mg x3  
 2L NS  
 325mg Aspirin  
 Dilt drip subsequently started at 5/hr  
 On the floor, pt felt much better than before. No longer having 
chest pain.  
 REVIEW OF SYSTEMS:  
 Positive per HPI.  
 Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
syncope.  
 On further review of systems, denies fevers or chills. Denies 
any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
cough, hemoptysis, black stools or red stools. Denies exertional 
buttock or calf pain. All of the other review of systems were 
negative.  

 
Past Medical History:
HTN  
HLD  
Macular Degeneration  
Osteoarthritis  
Trigeminal neuralgia  
Cataracts  

 
Social History:
___
Family History:
Denies history of A-Fib or Valve Disease  
 Father - MI, T2DM  
 Aunt - breast cancer  
 Mother - PE/DVT  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
VS: temp 97.2, HR 135, 135/66, RR 18, 99% RA  
GENERAL: Very well appearing, pleasant, NAD  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple. JVP of 8-9 cm. No thyromegaly.  
CARDIAC: Irregularly irregular and tachycardic. No murmurs.  
LUNGS: Respiration is unlabored with no accessory muscle use. No 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  SKIN: No significant skin lesions or rashes.  

PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAM:
===========================
VS: temp 98.7, 155/82 (103-155/61-82), HR 74-84, RR 18, 95% RA 
Weight: 62.4<-61.7<-62.6kg
Admission weight: 62.6kg 
GENERAL: Very well appearing, pleasant, NAD  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple. No thyromegaly. JVP 8cm at 45 degrees.  
CARDIAC: Irregularly irregular and tachycardic. No murmurs.  
LUNGS: Respiration is unlabored with no accessory muscle use. 
Slight crackles at b/l bases. No wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema. 2+ radial/DP pulses. 
SKIN: No significant skin lesions or rashes. 
 
Pertinent Results:
ADMISSION LABS:
=========================
___ 07:30PM URINE  HOURS-RANDOM
___ 07:30PM URINE  UHOLD-HOLD
___ 07:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD
___ 07:30PM URINE  RBC-1 WBC-20* BACTERIA-FEW YEAST-NONE 
EPI-4
___ 07:30PM URINE  MUCOUS-RARE
___ 06:33PM   GLUCOSE-203* UREA N-32* CREAT-1.0 SODIUM-141 
POTASSIUM-3.2* CHLORIDE-101 TOTAL CO2-19* ANION GAP-24*
___ 06:33PM   estGFR-Using this
___ 06:33PM   ALT(SGPT)-28 AST(SGOT)-34 ALK PHOS-44 TOT 
BILI-1.1
___ 06:33PM   cTropnT-<0.01
___ 06:33PM   proBNP-195
___ 06:33PM   CHOLEST-181
___ 06:33PM   %HbA1c-5.4 eAG-108
___ 06:33PM   TRIGLYCER-137 HDL CHOL-90 CHOL/HDL-2.0 
LDL(CALC)-64 ___
___ 06:33PM   TSH-2.2
___ 06:33PM   WBC-8.6# RBC-4.56 HGB-15.0 HCT-46.1* MCV-101* 
MCH-32.9* MCHC-32.5 RDW-12.3 RDWSD-45.9
___ 06:33PM   NEUTS-51.1 ___ MONOS-6.0 EOS-1.4 
BASOS-0.6 IM ___ AbsNeut-4.39 AbsLymp-3.50 AbsMono-0.52 
AbsEos-0.12 AbsBaso-0.05
___ 06:33PM   PLT COUNT-265
___ 06:33PM   ___ PTT-29.8 ___

MICROBIOLOGY:
=========================
Urine cx (___): negative
Blood cx (___): negative

IMAGING:
=========================
CXR (___): FINDINGS:  
Mild enlargement of the cardiac silhouette is re- demonstrated.  
The aorta is mildly tortuous with atherosclerotic calcifications 
noted at the aortic knob.  Mild pulmonary vascular congestion is 
present without frank pulmonary edema.  Patchy atelectasis is 
seen in the lung bases, but no focal consolidation.  No pleural 
effusion or pneumothorax is identified.  Though there are no 
acute osseous abnormalities detected. 
  
IMPRESSION:  
Patchy bibasilar atelectasis.  Mild pulmonary vascular 
congestion without 
pulmonary edema 

CARDIAC STUDIES:
=========================

EKG:
EKG (___): NSR  
EKG (___): A-Fib with RVR, no ischemic changes  

2D ECHOCARDIOGRAM:
TTE (___): pending read

DISCHARGE AND PERTINENT LABS:
================================
___ 06:10AM BLOOD WBC-6.7 RBC-3.76* Hgb-12.5 Hct-39.1 
MCV-104* MCH-33.2* MCHC-32.0 RDW-12.3 RDWSD-47.6* Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD Glucose-92 UreaN-21* Creat-0.8 Na-143 
K-3.9 Cl-109* HCO3-24 AnGap-14
___ 06:10AM BLOOD Calcium-8.3* Phos-2.3* Mg-2.___ y/o F with a h/o HTN, recent stress iso husband's 
hospitalization, who presents with chest pain and palpitations, 
found to have new onset Atrial Fibrillation with HRs in 230s.  

# New onset Atrial Fibrillation with RVR: Patient presented with 
abrupt onset of symptomatic A-Fib at 6pm on ___ (while on 
home atenolol). Her CHADS2-VASC is 4 (HTN, female, age >___). She 
was initially quite tachycardic (HRs 230s), and required a 
diltiazem drip (titrated to HR<130) for rate control after 
multiple IV dilt boluses and 2L IVF failed to result in 
sustained rate control. Initial differential included valve 
disease (no murmur), ischemic heart disease (trops 
<0.01->0.03->0.02, CKMB 11->10), CHF (proBNP 195), thyroid 
disease (TSH wnl), infection (afebrile, but endorses URI sx, 
Ucx/Blood cx negative), hypokalemia (K 3.2).In addition, patient 
has been under severe stress in the context of her husband's 
recent hospitalization, which could also be a trigger. Dilt drip 
ultimately led to NSR, but with HRs in the ___. Given high HRs, 
opted to pursue rhythm control w/amiodarone (LFTs wnl, TSH wnl, 
b/l CXR obtained and w/o acute cardiopulmonary process). Patient 
was transitioned from dilt drip to amiodarone 400mg BID on ___ 
and she maintained NSR with HRs in ___. Amiodarone was converted 
to 200mg BID on ___, with a plan to continue this on discharge. 
For additional rate control, patient was also converted from 
home atenolol to metoprolol tartrate 12.5mg BID, which was 
transitioned to metoprolol succinate XL 25mg daily prior to 
discharge. Patient continued to maintain NSR with HRs in ___ 
at time of discharge. Given CHADS-VaSc score, pt is a candidate 
for anticoagulation. Following discussion with patient and her 
daughter, decision was made to initiate NOAC. Patient was 
started on apixaban 5mg BID, but given insurance constraints, 
this was changed to rivaroxaban 15mg daily, to be started on 
___ at 8PM with a meal following discharge. Patient also 
received TTE on ___, with read pending at time of discharge. 


# Hypokalemia: Patient's K was 3.2 on admission in the setting 
of being on home HCTZ. Her HCTZ was discontinued. She was 
repleted with PO and IV K and her repeat K was 3.9, and stable 
at 3.9 at time of discharge. HCTZ was not restarted.   

# Pyuria: UA w/20 WBC. Patient denied any dysuria, increased 
urinary frequency. She was afebrile and had no leukocytosis. Did 
not initiate antibiotic treatment. Urine and blood cx were 
negative.  

# Anion gap acidosis: Patient had an anion gap of 21 on 
admission. She appeared hypovolemic on exam, and also had a 
mildly elevated BUN/Cr. Lactate 1.4. Received 2L IVF in the ED, 
with repeat AG 16. AG 14 at time of discharge.  

# HTN: SBPs in the 140s-150s on admission. Patient was continued 
on home losartan 100mg daily. Her home HCTZ was discontinued in 
the setting of hypokalemia as above. Her home atenolol was 
discontinued, and she was initiated on metoprolol tartrate 
12.5mg BID, which was transitioned to metoprolol succinate XL 
25mg daily on prior to discharge. Her SBPs were 110s-130s at the 
time of discharge.  
  
# HLD: Obtained lipids which showed Triglyc: 137, HDL: 90, 
CHOL/HD: 2.0, LDLcalc: 64. Discontinued patient's home 
simvastatin 5mg given drug-drug interaction with Diltiazem and 
initiated Atorvastatin 20mg daily on ___, to be continued 
following discharge.  
 
# Primary Prevention: HbA1c 5.4% on ___. Continued home ASA 
81mg.   

# Hypovitaminosis D: Continued home cholecalciferol daily.  
 
=================================
TRANSITIONAL:
=================================
- Patient was started on rivaroxaban 15mg daily. She should take 
the first dose of this medication on the same day of discharge, 
___, at 8PM with dinner.
- Patient was started on amiodarone 200mg BID.  
- Patient's home atenolol and hydrochlorothiazide were 
discontinued. Metoprolol succinate XL 25mg daily was initiated. 
- Patient's home simvastatin 5mg daily was replaced with 
atorvastatin 20mg daily. 
- Patient should be monitored for amiodarone-related 
complications, with repeat LFTs, TFTs, CXR in six months.

Discharge Weight: 62.4kg
Discharge Creatinine: 0.8

#CODE: full  
#CONTACT: Daughter ___ ___  
 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 
2. Simvastatin 5 mg PO QPM 
3. Atenolol 50 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Losartan Potassium 100 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Ascorbic Acid ___ mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Amiodarone 200 mg PO BID 
RX *amiodarone 200 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily (in the 
evening) Disp #*30 Tablet Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  Rivaroxaban 15 mg PO DINNER 
RX *rivaroxaban [Xarelto] 15 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
6.  Ascorbic Acid ___ mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Losartan Potassium 100 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
=======================
Atrial fibrillation 
Hypokalemia
Hypertension

SECONDARY DIAGNOSIS:
=======================
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
It was a pleasure taking care of you! You were admitted with 
chest discomfort and palpitations. We found that this was 
because you have an abnormal heart rhythm called atrial 
fibrillation. With this condition, the upper chambers of the 
blood do not pump effectively, and there is also a propensity to 
form clots in those chambers. We started you on medication to 
control your heart rhythm and you improved. We also started you 
on a medication to prevent clots from forming. 

Please take your first dose of rivaroxaban 15mg daily today, 
___, at 8PM with a meal. 

Please take all other medications as directed and try your best 
to keep your scheduled medical appointments. 

We wish you the best of health!
Your ___ Cardiology Care Team
 
Followup Instructions:
___